US05126347
Synthesis of (3R-cis)-9-[tetrahydro-5-(dimethyoxymethyl)-3-furanyl]-9H-purin-6-amine (Compound VI)
To a flame-dried argon blanketed round bottom flask equipped with a magnetic stir bar and condenser was added adenine (2.14 g, 15.8 mmole), K2CO3 (4.37 g, 31.6 mmole), 18-crown-6 (417 mg, 1.58 mmole) and DMF (400 mL). This mixture was allowed to stir at room temperature for 30 minutes under a stream of argon. A solution of (3S-trans)-tetrahydro-5-(dimethoxymethyl)-3-furanol-4-methylbenzenesulfonate. Compound IV(e), (5.0 g, 15.8 mmole) in 100 mL DMF was then added dropwise to the stirring mixture; the resultant mixture was warmed to 80° C., and stirred at that temperature overnight. Filtration, followed by evaporation of DMF, afforded a solid residue. This material was passed through a silica gel pad using a 7% MeOH/93% CH2Cl2 solution as eluant. Fractions containing the desired product were collected and evaporated to yield 3.0 g (71%) of Compound VI as a white solid:

reactant | adenine | 15.8 mmole, 2.14 g | N1=CN=C2N=CNC2=C1N | C5H5N5
reactant | K2CO3 | 31.6 mmole, 4.37 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 18-crown-6 | 1.58 mmole, 417 mg | C1COCCOCCOCCOCCOCCO1 | C12H24O6
reactant | (3S-trans)-tetrahydro-5-(dimethoxymethyl)-3-furanol 4-methylbenzenesulfonate | COC([C@H]1C[C@@H](CO1)O)OC.CC1=CC=C(C=C1)S(=O)(=O)[O-]
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
solvent | DMF | 400 mL | CN(C)C=O | C3H7NO
solvent | MeOH | CO | CH4O
product | (3R-cis)-9-[tetrahydro-5-(dimethyoxymethyl)-3-furanyl]-9H-purin-6-amine | COC([C@H]1C[C@H](CO1)N1C2=NC=NC(=C2N=C1)N)OC | C12H17N5O3
